US07642264B2
Trifluoro-methanesulfonic acid 4-benzo[1,3]dioxol-5-yl-6-methyl-pyridin-2-yl ester
The title compound was prepared from the above described 4-benzo[1,3]dioxol-5-yl-6-methyl-1H-pyridin-2-one (1.2 g, 5.23 mmol) and trifluoromethanesulfonic anhydride (1.04 mL, 6.28 mmol) according to the general procedure Ia to d preparation of triflates. Obtained as a light brown solid (1.13 g, 60%). MS (ISP) 362.1 [(M+H)+].

reactant | 4-benzo[1,3]dioxol-5-yl-6-methyl-1H-pyridin-2-one | 5.23 mmol, 1.2 g | O1COC2=C1C=CC(=C2)C2=CC(NC(=C2)C)=O | C13H11NO3
reactant | trifluoromethanesulfonic anhydride | 6.28 mmol, 1.04 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | Trifluoro-methanesulfonic acid 4-benzo[1,3]dioxol-5-yl-6-methyl-pyridin-2-yl ester | O1COC2=C1C=CC(=C2)C2=CC(=NC(=C2)C)OS(=O)(=O)C(F)(F)F | C14H10F3NO5S
